US07820654B2
Step (iii). Synthesis of 1-(4-benzo[1,3]dioxol-5-yl-6-phenyl-pyrimidin-2-yl)-piperidin-4-ol
A mixture of compound benzo[1,3]dioxo-5-yl boronic acid (0.14 g, 83 mmol), and compound 1-(4-chloro-6-phenyl-pyrimidin-2-yl)-piperidin-4-ol (90.2 g, 69 mmol), (PPh3)4Pd (31 mg, 0.03 mmol) and sodium carbonate (0.73 g, 69 mmol) in dimethylformamide (5 mL) was stirred for 1 hour at 25° C. and then for 12 hours at 80° C. under nitrogen atmosphere. The mixture was cooled to temperature in the range of 20-40° C., diluted with water (10 mL) and extracted with ethyl acetate (3×10 mL). The organic layers were collected, combined, washed with water (10 mL), dried over anhydrous sodium sulphate, and concentrated under vacuum. The residue thus obtained was purified by column chromatography using ethyl acetate-petroleum ether to give the desired compound.

reactant | 1-(4-chloro-6-phenyl-pyrimidin-2-yl)-piperidin-4-ol | 69 mmol, 90.2 g | ClC1=NC(=NC(=C1)C1=CC=CC=C1)N1CCC(CC1)O | C15H16ClN3O
reactant | sodium carbonate | 69 mmol, 0.73 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 10 mL | O | H2O
catalyst | (PPh3)4Pd | 0.03 mmol, 31 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(4-benzo[1,3]dioxol-5-yl-6-phenyl-pyrimidin-2-yl)-piperidin-4-ol | O1COC2=C1C=CC(=C2)C2=NC(=NC(=C2)C2=CC=CC=C2)N2CCC(CC2)O | C22H21N3O3
